US06933304B2
(1S,2R)-2-(2-methoxy-2-oxoethyl)cyclopropanecarboxylic acid
Tert-butyl (1S,2R)-2-(2-methoxy-2-oxoethyl)cyclopropanecarboxylate was dissolved in a mixture of trifluoroacetic acid:methylene chloride (7:3) and stirred at room temperature until the t-butyl ester was removed. The solvent was removed under reduced pressure to give product. 1H NMR (CDCl3) δ 3.70 (s, 3H), 2.35 (d, J=7.5 Hz, 2H), 1.85-1.70 (m, 1H), 1.52-1.49 (m, 1H), 1.39-1.30 (m, 1H), 0.93-0.87 (m, 1H).

reactant | Tert-butyl (1S,2R)-2-(2-methoxy-2-oxoethyl)cyclopropanecarboxylate | COC(C[C@@H]1[C@H](C1)C(=O)OC(C)(C)C)=O | C11H18O4
solvent | trifluoroacetic acid methylene chloride | FC(C(=O)O)(F)F.C(Cl)Cl
product | (1S,2R)-2-(2-methoxy-2-oxoethyl)cyclopropanecarboxylic acid | COC(C[C@@H]1[C@H](C1)C(=O)O)=O | C7H10O4
